US04317909
A mixture containing 43.2 g. of 2-amino-3-nitro-6-(4-pyridinyl)pyridine, 360 ml. of dimethylformamide, 220 ml. of ethanol and 1 g. of 10% palladium-on-charcoal was shaken in a Parr apparatus under catalytic hydrogenation conditions for about one hour. The reaction mixture was filtered and the filtrate concentrated in vacuo to a volume of about 150 ml. and cooled. The separated solid was collected and dried to produce 20 g. of 2,3-diamino-6-(4-pyridinyl)pyridine which can be used directly in the next step without further purification. In another run, a sample was recrystallized from ethanol using decolorizing charcoal to produce the product, 2,3-diamino-6-(4-pyridinyl)pyridine, melting at 252°-254° C.

reactant | 2-amino-3-nitro-6-(4-pyridinyl)pyridine | NC1=NC(=CC=C1[N+](=O)[O-])C1=CC=NC=C1 | C10H8N4O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2,3-diamino-6-(4-pyridinyl)pyridine | NC1=NC(=CC=C1N)C1=CC=NC=C1 | C10H10N4
